US05025025
To a solution of 4.63 g of 4-(4-hydroxybutyl)-cyclohex-3-ene-1-one in 130 mL acetone is added 0.46 of 10% palladium on carbon and the suspension is then hydrogenated at 3 atmospheres pressure for 3 hours. The catalyst is evaporated to dryness to give 4-(4-hydroxybutyl)cyclohexanone as an oil.

reactant | 4-(4-hydroxybutyl)-cyclohex-3-ene-1-one | 4.63 g | OCCCCC1=CCC(CC1)=O | C10H16O2
solvent | acetone | 130 mL | CC(=O)C | C3H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-hydroxybutyl)cyclohexanone | OCCCCC1CCC(CC1)=O | C10H18O2
